US05650428
The procedure described in Example 125 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide (360 mg) was reacted with 4-chlorophenol (178.3 mg) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(4-chlorophenoxy) propanamide (248 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide | 360 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COS(=O)(=O)C | C20H23ClN2O8S2
reactant | 4-chlorophenol | 178.3 mg | ClC1=CC=C(C=C1)O | C6H5ClO
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(4-chlorophenoxy) propanamide | 248 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COC1=CC=C(C=C1)Cl | C25H24Cl2N2O6S
